US07348340B2
F2. N-Cyclopropyl-N-[4-(dimethylamino)-2-(3-fluorophenyl)-6-quinolinyl]acetamide
The title compound was prepared by acetylation at the 6-nitrogen as follows. Into a 50 mL round-bottom flask equipped with a magnetic stirrer, condenser silicone oil bath and nitrogen inlet, was placed 750 mg (2.33 mmoles) of N6-cyclopropyl-N4,N4-dimethyl-2-[3-fluorophenyl]-4,6-quinolinediamine. To this was added 5 mL of glacial acetic acid. After the material dissolved, 202 mg (2.57 mmoles, 1.1 equiv.) of acetyl chloride was added. The mixture was stirred at room temperature for 1 hr, then heated to 60° C. for 2 hr. At the end of this time the reaction was cooled and poured into a 1 L separatory funnel containing 300 mL ethyl acetate and 500 mL of 1 N NaOH solution. The organic layer was separated, washed with NaOH solution, dried over Na2SO4, filtered and concentrated. The residue was then crystallised from methylene chloride and hexane to give 550 mg (65%) of product.

reactant | N6-cyclopropyl-N4,N4-dimethyl-2-[3-fluorophenyl]-4,6-quinolinediamine | 2.33 mmoles, 750 mg | C1(CC1)NC=1C=C2C(=CC(=NC2=CC1)C1=CC(=CC=C1)F)N(C)C | C20H20FN3
reactant | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
reactant | acetyl chloride | 2.57 mmoles, 202 mg, 1.1 equiv. | C(C)(=O)Cl | C2H3ClO
reactant | NaOH | 1 N, 500 mL | [OH-].[Na+]
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | N-Cyclopropyl-N-[4-(dimethylamino)-2-(3-fluorophenyl)-6-quinolinyl]acetamide | C1(CC1)N(C(C)=O)C=1C=C2C(=CC(=NC2=CC1)C1=CC(=CC=C1)F)N(C)C | C22H22FN3O
